US07745462B2
Lithium aluminium hydride (1 M solution in ether, 23.7 ml, 23.7 mmol) is added to a solution of 2-aminoindan-2-carboxylic acid (J. Med. Chem. 1991, 34, 3125; 2.26 g, 12.8 mmol) in ether (150 ml). The reaction is stirred for 2 hours at ambient temperature and quenched sequentially with water (0.9 ml), 2 M NaOH (0.9 ml) and further water (0.9 ml). MgSO4 is added and the resultant suspension is filtered. The filtrate is evaporated to afford (2-aminoindan-2-yl)methanol, MH+164.

reactant | Lithium aluminium hydride | 23.7 mmol, 1 M, 23.7 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-aminoindan-2-carboxylic acid | 12.8 mmol, 2.26 g | NC1(CC2=CC=CC=C2C1)C(=O)O | C10H11NO2
solvent | ether | 150 ml | CCOCC | C4H10O
product | (2-aminoindan-2-yl)methanol | NC1(CC2=CC=CC=C2C1)CO | C10H13NO
